* Knowm Mean Metastable Switch Memristor SPICE Model

* Connections:
* TE:  Top electrode
* BE:  Bottom electrode
* XSV: External connection to plot state variable
*      that is not used otherwise

.SUBCKT MEM_KNOWM TE BE XSV 

* Ron:  Minimum device resistance
* Roff: Maximum device resistance
* Von:  Threshold voltage to turn device on
* Voff: Threshold voltage to turn device off
* TAU:  Time constant
* T:    Temperature

.params Ron=500 Roff=1500 Voff=0.27 Von=0.27 TAU=0.0001 T=298.5 x0=0 

* Function G(V(t)) - Describes the device threshold
.func G(V) = V/Ron+(1-V)/Roff

* Function F(V(t),x(t)) - Describes the SV motion 
.func F(V1,V2) = (1/TAU)*((    1/(1+exp(-1/(T*boltz/echarge)*(V1-Von)))   )*(1-V2)-(    1-(1/(1+exp(-1/(T*boltz/echarge)*(V1+Voff))))    )*V2

* Memristor I-V Relationship
*.func IVRel(V1,V2) = V1/(Ron*V2 + Roff*(1-V2))
.func IVRel(V1,V2) = V1*G(V2)

* Circuit to determine state variable
* dx/dt = F(V(t),x(t))*G(V(t))
Cx XSV 0 {1}
.ic V(XSV) = x0
Gx 0 XSV value={F(V(TE,BE),V(XSV,0))}

* Current source for memristor IV response
Gmem TE BE value={IVRel(V(TE,BE),V(XSV,0))}

.ENDS MEM_KNOWM